US07208494B2
a) N-(5-Fluoro-pyridin-2-yl)-2,2-dimethyl-propionamide
To a solution of 33.6 mL triethylamine and 22.5 2-amino-5-fluoropyridine (0.201 mol) in 200 mL dichloromethane was added dropwise a solution of 28 mL pivaloyl chloride (0.201 mol) in 50 mL dichloromethane at such a rate that the temperature did not exceed 15° C. (ice bath cooling). The mixture was then stirred overnight with thawing to room temperature. To the resulting brown-black suspension was added 5 g charcoal and the mixture was stirred at room temperature for 30 min and filtered through dicalite. The orange- yellow mother liquor was purified by filtration over a layer of silica gel (400 g) with heptane:ethyl acetate=4:1. The slightly yellow product fractions were evaporated and the oily residue was distilled in a kugelrohr apparatus at 100° C. and 0.5 mbar. The compound crystallized on standing at room temperature.

reactant | triethylamine | 33.6 mL | C(C)N(CC)CC | C6H15N
reactant | 2-amino-5-fluoropyridine | 0.201 mol | NC1=NC=C(C=C1)F | C5H5FN2
reactant | pivaloyl chloride | 0.201 mol, 28 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | charcoal | 5 g | C | CH4
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-(5-Fluoro-pyridin-2-yl)-2,2-dimethyl-propionamide | FC=1C=CC(=NC1)NC(C(C)(C)C)=O | C10H13FN2O
